US08039472B2
3-(3-Isopropoxy-propylsulfamoyl)-benzoic acid
3-Isopropoxypropylamine (1.1 eq.) is dissolved in THF with stirring at room temperature. N,N-diisopropylethylamine (1 eq.) is added followed by methyl 3-(chlorosulfonyl)benzoic acid (1 eq.). The reaction mixture is stirred at room temperature for 2 hours before the solvent is evaporated in vacuo to yield the crude titled product.

reactant | 3-Isopropoxypropylamine | 1.1 eq. | C(C)(C)OCCCN | C6H15NO
reactant | N,N-diisopropylethylamine | 1 eq. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 3-(chlorosulfonyl)benzoic acid | 1 eq. | CC1=C(C(=O)O)C=CC=C1S(=O)(=O)Cl | C8H7ClO4S
solvent | THF | C1CCOC1 | C4H8O
product | 3-(3-Isopropoxy-propylsulfamoyl)-benzoic acid | C(C)(C)OCCCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C13H19NO5S
